US07205306B2
5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-methylpropyl)-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone and 7-chloro-5-methoxyindoline hydrochloride as the starting materials. mp 143–145° C.; 1H NMR (300 MHz, CDCl3): δ 6.89 (s, 1 H), 6.77–6.72 (m, 2 H), 4.96–4.89 (m, 1 H), 4.34 (t, J=7.9 Hz, 2 H), 3.76 (s, 3 H), 3.07 (t, J=7.7 Hz, 2 H), 1.74–1.64 (m, 2 H), 1.33 (d, J=7.0 Hz, 3 H), 0.89 (t, J=7.6 Hz, 3 H); HRMS (ESI) calcd for C17H20N3O2Cl2 (M+H)+: 368.0933; found m/z 368.0927.

reactant | 1-sec-butyl-3,5-dichloro-2(1H)-pyrazinone | C(C)(CC)N1C(C(=NC(=C1)Cl)Cl)=O | C8H10Cl2N2O
reactant | 7-chloro-5-methoxyindoline hydrochloride | Cl.ClC=1C=C(C=C2CCNC12)OC
product | 5-Chloro-3-(7-chloro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-(1-methylpropyl)-2(1H)-pyrazinone | ClC=1N=C(C(N(C1)C(CC)C)=O)N1CCC2=CC(=CC(=C12)Cl)OC | C17H19Cl2N3O2
